US08193199B2
Prepared according to Procedure H using (8-chloro-2-(2-chloro-5-fluorophenyl)-quinolin-3-yl)methanamine (0.050 g, 0.156 mmol), 6-chloropurine (0.027 g, 0.17 mmol, 1.2 eq) and DIEA (0.70 mmol, 2.0 eq) in n-butanol (3 mL). N-((8-chloro-2-(2-chloro-5-fluorophenyl)quinolin-3-yl)methyl)-9H-purin-6-amine [PI3Kδ IC50=71 nM] was obtained after purification as a white solid. 1H-NMR (MeOD) δ ppm 8.30 (s, 1H), 8.20 (s, 1H), 7.80 (dd, J=7.58, 0.49 Hz, 2H), 7.69-7.75 (m, 1H), 7.42-7.47 (m, 1H), 7.31-7.37 (m, 1H), 7.11-7.16 (m, 1H), 6.99-7.06 (m, 1H), 4.90-497. (m, 2H), Mass Spectrum (ESI) m/e=440 (M+1)

reactant | (8-chloro-2-(2-chloro-5-fluorophenyl)-quinolin-3-yl)methanamine | 0.156 mmol, 0.050 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC(=C1)F)Cl)CN | C16H11Cl2FN2
reactant | 6-chloropurine | 0.17 mmol, 0.027 g, 1.2 eq | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | DIEA | 0.70 mmol, 2.0 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | N-((8-chloro-2-(2-chloro-5-fluorophenyl)quinolin-3-yl)methyl)-9H-purin-6-amine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC(=C1)F)Cl)CNC1=C2N=CNC2=NC=N1 | C21H13Cl2FN6
